US08314109B2
To a solution of 4 g of 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine in 40 mL of 1,2-dimethoxyethane are added 4.26 g of ethyl 3-bromo-2-oxopropionate. The reaction mixture is stirred for 40 hours at 20° C. The precipitate is filtered off by suction, washed with a small amount of 1,2-dimethoxyethane and pentane and then taken up in 50 mL of ethanol and refluxed for 1 hour. The reaction mixture is concentrated to dryness under reduced pressure. The oil obtained is redissolved in ethyl ether and the solution is concentrated under reduced pressure. The solid is filtered off by suction and washed with a small amount of ethyl ether to give 3.78 g of ethyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxylate hydrobromide (1:1) in the form of a white solid.

reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 4 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
reactant | ethyl 3-bromo-2-oxopropionate | 4.26 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | ethyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxylate hydrobromide | 3.78 g | Br.CC1(OB(OC1(C)C)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)C | InChI=1S/C16H21BN2O4.BrH/c1-6-21-14(20)12-10-19-9-11(7-8-13(19)18-12)17-22-15(2,3)16(4,5)23-17;/h7-10H,6H2,1-5H3;1H
